US06713573B2
A 500 mL 3-neck round-bottom flask was equipped with a reflux condensor and thermometer and purged with nitrogen. To it was charged 100 mL dry, deoxygenated diethyl ether and 4.4 g of zinc strips. This mixture was agitated in a water-filled sonicating bath for 5 minutes. To this was slowly added a mixture of 12.06 g pivaloyl chloride (0.10 mole), 18.1 g of ethyl 2-bromopropionate (0.10 mole, synthesized by the method of Strunk, R. J.; DiGiacomo, P. M.; Aso, K.; Kuivila, H. G. J Am. Chem. Soc., 1970, 92, 2849-2856.) and 100 mL of ethyl ether. The resulting mixture was refluxed 6 hours and stirred at room temperature overnight. The mixture was then successively extracted with cold 20% aqueous sulfuric acid, water and brine before drying over sodium sulfate. The solution was stripped to obtain 12.8 g of crude oil. This was distilled under vacuum to yield 10.5 g of ethyl 2-pivaloylpropionate. 1H NMR (CDCl3): δ4.103 (q, J=7.1 Hz, 2H), 3.959 (q, J=6.9, 1 Hz), 1.287 (d, J=7.0 Hz, 3H), 1.196 (t, J=7.1 Hz, 3H), 1.157 (s, 9H).

reactant | pivaloyl chloride | 0.10 mole, 12.06 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | ethyl 2-bromopropionate | 18.1 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | ethyl 2-pivaloylpropionate | 10.5 g | C(C(C)(C)C)(=O)C(C(=O)OCC)C | C10H18O3
